Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
admission for C3 of EPOCH
 
Major Surgical or Invasive Procedure:
LP with IT MTX on ___
 
History of Present Illness:
HPI: Mr. ___ is a ___ year old female diagnosed with DLBCL 
of
the right breast in the setting of rheumatologic workup and
treatment for adult's still disease. Her ongoing poor response 
to
escalated rheumatologic treatment prompted a PET scan which
showed a 7mm FGD-avid area in her right breast. She underwent
breast biopsy on ___, with pathology consistent with a high
grade breast lymphoma leading to discontinuation of cyclosporine
and anakinra. She was started on DA-EPOCH on ___. Initial LP
on ___ w/o signs of infection but w/ elevated protein. Given
concern for meningeal involvement with elevated CSF protein, she
underwent an MRI scan which did not reveal CNS involvement.
Follow up LPs revealed elevated CSF protein that overall
downtrending from previous results. She is now s/p 2C of 
Da-EPOCH
presenting now for C3 of regimen

24Hr Events: Feels less bloated on abdomen and upper extremities
this morning. No cough or breathing difficulties. Slept well. 

ROS: Overall reports feeling well. No fevers, chills, rigors,
dizziness, headache, LOC, vertigo, lightheadedness, URI 
symptoms,
chest pain, palpitations, abdominal pain, nausea, vomiting,
diarrhea, constipation, ___ weakness or unsteady gait. Continues
to endorse discomfort of subcutaneous nodules which have been
improving since last cycle. No numbness or tingling. No new
rashes, lesions, or easy bruising. 

All other ROS negative. 

 
Past Medical History:
PAST MEDICAL HISTORY: 
DLBCL of the breast, presenting initially as HLH which was at
first thought to be Adult-onset Still's Disease before occult
lymphoma in the breast was discovered. 
History of intrapartum bleeding, s/p "staples" to her fallopian 
tubes

TREATMENT HISTORY: 
___ Cycle 1 DA-EPOCH-R (level 1)
S/p IT MTX and LP. LP on ___ Cycle 2 DA-EPOCH-R (level -1)
___ IT MTX 
___ Port placed (double lumen power Port-a-cath)
 
Social History:
___
Family History:
Mother with CAD. No FH immunologic or rheumatologic disorders. 
No FH of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN: Calm and in NAD, well appearing
VS: TC 97.7 PO 97/59 69 18 98%RA 
HEENT: MMM, NO thrush. Oropharynx clear.
CV: RRR, no murmurs/rubs/gallops
LUNGS: Breathing comfortably on room air, CTAB
ABDOMEN: soft, with BS+, non tender with no guarding
MSK: no joint warmth, swelling, effusion
EXTREMITIES: SKIN: Except as above, no new rashes/lesions.
NEURO: CN II-VII grossly intact, alert and oriented x 3
ACCESS: PIV in place. 

DISCHARGE PHYSICAL EXAM:
GEN: Calm and in NAD, well appearing
VS: TC 98.0 PO 122/76 58 18 97%RA 
I/O: 3755/5500 BM x 1 
HEENT: MMM, No thrush. Oropharynx clear.
CV: RRR, no murmurs/rubs/gallops
LUNGS: Breathing comfortably on room air. Crackles on LL base
resolved. No rhonchi or wheezing. 
ABDOMEN: soft, with BS+, non tender with no guarding
MSK: Erythematous subcutaneous nodules along varicose veins > 
LLE
improving since C2. Mild tenderness on palpation. No joint
warmth, swelling, or effusion
SKIN: LP site w/o discharge, erythema or tenderness. No new 
rashes/lesions.
NEURO: CN ___ grossly intact, alert and oriented x 3
ACCESS: Left Chest POC deaccessed at discharge
 
Pertinent Results:
___ 12:42AM BLOOD WBC-2.4* RBC-2.42* Hgb-7.5* Hct-22.9* 
MCV-95 MCH-31.0 MCHC-32.8 RDW-20.3* RDWSD-69.0* Plt ___
___ 12:30PM BLOOD WBC-4.9# RBC-2.90* Hgb-8.9* Hct-28.2* 
MCV-97 MCH-30.7 MCHC-31.6* RDW-23.1* RDWSD-77.8* Plt ___
___ 12:42AM BLOOD Neuts-92.2* Lymphs-5.4* Monos-1.2* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-2.22 AbsLymp-0.13* 
AbsMono-0.03* AbsEos-0.00* AbsBaso-0.00*
___ 12:30PM BLOOD Neuts-71 Bands-4 Lymphs-16* Monos-4* 
Eos-2 Baso-0 Atyps-1* ___ Myelos-1* Promyel-1* AbsNeut-3.68 
AbsLymp-0.83* AbsMono-0.20 AbsEos-0.10 AbsBaso-0.00*
___ 12:08AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-2+ Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Tear Dr-1+
___ 12:30PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-NORMAL Microcy-OCCASIONAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Tear Dr-1+
___ 12:42AM BLOOD Plt ___
___ 12:30PM BLOOD ___ PTT-30.4 ___
___ 12:42AM BLOOD ___
___ 12:30PM BLOOD ___
___ 12:42AM BLOOD Glucose-119* UreaN-14 Creat-0.4 Na-139 
K-3.8 Cl-104 HCO3-25 AnGap-14
___ 12:30PM BLOOD Glucose-72 UreaN-10 Creat-0.8 Na-142 
K-3.9 Cl-106 HCO3-25 AnGap-15
___ 12:42AM BLOOD ALT-21 AST-14 LD(LDH)-197 AlkPhos-48 
TotBili-0.3
___ 12:30PM BLOOD ALT-11 AST-18 LD(LDH)-359* AlkPhos-89 
TotBili-0.4
___ 12:42AM BLOOD Albumin-3.1* Calcium-8.1* Phos-3.0 Mg-2.0
___ 12:42AM BLOOD Albumin-3.1* Calcium-8.1* Phos-3.0 Mg-2.0
___ 12:30PM BLOOD Albumin-3.9 Calcium-9.3 Phos-4.9* Mg-2.___SSESSMENT AND PLAN: Ms ___ is a ___ year old female with
DLBCL of the breast, which presented initially as HLH who is now
s/p 2 cycles of DA-EPOCH-R and presenting for C3 of regimen at
dose level 1

C3D6 DA-EPOCH-R = ___

#FVO: Up 9.5lbs from baseline weight on ___, continue to trend 
down; crackles on LL base resolved. Lasix x 1 (20mg) and 
discontinued continuous IVF on ___. Expect improvement post 
discharge

#High Grade Breast DLBCL: Diagnosed in the setting of 
rheumatologic workup and treatment for suspected adult's still 
disease. Her ongoing poor response to escalated rheumatologic 
treatment prompted a PET scan which showed a 7mm FGD-avid area 
in her right breast. She underwent breast biopsy on ___, 
with
pathology consistent with a high grade breast lymphoma. She is 
now s/p 3C of DA-EPOCH-R
-Continue acyclovir and atovaquone for infectious ppx
-restarted fluconazole at discharge 
-neupogen to start on ___
-follow up with Dr. ___ on ___ but plan to have 
labs drawn locally on ___ and ___. 
-plan for ECHO and PET s/p 3 cycles of treatment with plan to be 
scheduled on ___ per outpatient team.
-s/p LP with IT MTX on ___ was done concern for CNS involvement 
given elevated CSF protein in prior LPs although MRI did not 
show any evidence of CNS disease. 

#DVT: diagnosed on ___ by ultrasound in the setting of pain 
complaints on RUE where PICC line was previously placed for C2 
chemotherapy. Initiated Lovenox
80mg daily on ___, held dose ___ in preparation for 
POC placement and ___ prior to LP. Advised patient to restart 
on ___. Will hold during periods of thrombocytopenia, patient 
will have labs drawn locally as above

#Superficial Phlebitis: Noted as + erythema, tenderness and 
swelling along varicose veins bilaterally > L. On exam, appears 
to have subcutaneous tender/erythematous nodules along her 
varicose veins which overall has improved since cycle 2 of
chemotherapy. We are unsure if this is related to her underlying 
lymphoma or phlebitis alone but will continue to monitor closely

#History Orthostasis/Hypotension: No acute issues during 
hospitalization, will initiate prednisone taper as instructed 
starting ___

#Infectious Prophylaxis:
- PCP: ___
- HSV/VZV: Acyclovir
- Fungal: restarted Fluconazole at discharge

Prophylaxes:
# Access: POC placed ___
# FEN: Regular diet
# Bowel regimen: colace/senna/miralax
# DVT: Lovenox 80mg daily as above
# CONTACT: ___ (Daughter) ___
# Disposition: Discharged ___, follow up with Dr. ___ on ___
# Code Status: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO TID 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. LORazepam 0.5 mg PO Q8H:PRN nausea 
4. Pantoprazole 40 mg PO Q24H 
5. Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral daily 
6. Fluconazole 400 mg PO Q24H 
7. Nystatin Oral Suspension 5 mL PO QID 
8. Zarxio (filgrastim-sndz) 300 mcg/0.5 mL injection DAILY 
9. Enoxaparin Sodium 80 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 

 
Discharge Medications:
1.  PredniSONE 5 mg PO DAILY 
4tabs on ___, 2tabs on ___, 1tab on ___ tab on 
___ and then stop Tapered dose - DOWN  
2.  Acyclovir 400 mg PO TID  
3.  Atovaquone Suspension 1500 mg PO DAILY  
4.  Calcium 500 With D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral daily  
5.  Enoxaparin Sodium 80 mg SC DAILY start on ___.  Fluconazole 400 mg PO Q24H  
7.  LORazepam 0.5 mg PO Q8H:PRN nausea  
8.  Nystatin Oral Suspension 5 mL PO QID  
9.  Pantoprazole 40 mg PO Q24H  
10.  Zarxio (filgrastim-sndz) 300 mcg/0.5 mL injection DAILY 
start on ___  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DLBCL
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

You were admitted to receive your third cycle of chemotherapy 
for the treatment of your lymphoma. You tolerated this cycle 
very well and will be discharged today.

You will follow up with Dr. ___ as indicated below.

Please continue to take all of your medications as ordered. You 
will start your neupogen and lovenox injections on ___.

It was a pleasure taking care of you.

Sincerely,

Your ___ TEAM
 
Followup Instructions:
___